US04061761
3-(4-Chloro-3-sulfamoylphenyl)-6,6-dimethyl-3-hydroxy-2,3,5,6-tetrahydro-imidazo[2,1-b]thiazole-hydrobromide
3.1 g of 2-bromo-4'-chloro-3'-sulfamoylacetophenone and 1.3 g of 4,4-dimethyl-2-imidazolidine-thione were reacted as described in Example 12 in 15 ml of methanol, the reaction mixture was precipitated with 70 ml of diethyl ether and the oily precipitate was crystallized with ethyl acetate at 40° to 50° C. Colorless, crystalline solid body: melting point: 164° C (decomposition).

reactant | 2-bromo-4'-chloro-3'-sulfamoylacetophenone | 3.1 g | BrCC(=O)C1=CC(=C(C=C1)Cl)S(N)(=O)=O | C8H7BrClNO3S
reactant | 4,4-dimethyl-2-imidazolidine-thione | 1.3 g | CC1(NC(NC1)=S)C | C5H10N2S
solvent | methanol | 15 ml | CO | CH4O
product | 3-(4-Chloro-3-sulfamoylphenyl)-6,6-dimethyl-3-hydroxy-2,3,5,6-tetrahydro-imidazo[2,1-b]thiazole-hydrobromide | Br.ClC1=C(C=C(C=C1)C1(N2C(SC1)=NC(C2)(C)C)O)S(N)(=O)=O | InChI=1S/C13H16ClN3O3S2.BrH/c1-12(2)6-17-11(16-12)21-7-13(17,18)8-3-4-9(14)10(5-8)22(15,19)20;/h3-5,18H,6-7H2,1-2H3,(H2,15,19,20);1H
